US07022725B2
To a mixture of titanium tetrachloride (20.0 g) and tetrahydrofuran (100 ml) were added 4-nitrobenzaldehyde (8.00 g) and ethyl diethylphosphonoacetate (11.9 g) under ice-cooling, and N-methylmorpholine (21.4 g) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated to give crystals of 4-[(E)-2-(diethylphosphono)-2-ethoxycarbonylethenyl]nitrobenzene (15.7 g, yield 83%), which were recrystallized from dichloromethane-isopropyl ether to give a colorless prism (14.0 g). melting point: 60–61° C. A mixture of this compound (5.00 g), iron (3.13 g), conc. hydrochloric acid (7 ml) and ethanol (30 ml) was stirred at room temperature for 30 min. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was subjected to silica gel column chromatography to give crystals of 4-[(E)-2-(diethylphosphono)-2-ethoxycarbonylethenyl]aniline (2.40 g, yield 52%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v), which were recrystallized from acetone-isopropyl ether to give a pale yellow needle (1.75 g). melting point: 79–80° C.

reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 4-nitrobenzaldehyde | 8.00 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ethyl diethylphosphonoacetate | 11.9 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N-methylmorpholine | 21.4 g | CN1CCOCC1 | C5H11NO
catalyst | titanium tetrachloride | 20.0 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | 4-[(E)-2-(diethylphosphono)-2-ethoxycarbonylethenyl]nitrobenzene | 15.7 g, yield 83% | C(C)OP(=O)(OCC)/C(=C/C1=CC=C(C=C1)[N+](=O)[O-])/C(=O)OCC | C15H20NO7P
